US07393865B2
To a cooled solution (0° C.) of 2-(3-bromo-benzo[b]thiophen-2-yl)-ethanol (7.7 g, 29.9 mmol) in DMF (40 mL), NaH (1.44 g, 59.8 mmol, 95%) was added and the mixture was stirred for 20 min at 0° C. Subsequently benzylbromide (5.3 mL, 45 mmol) was added and the mixture was stirred overnight while the temperature gradually reached room temperature. After quenching with MeOH, the mixture was concentrated in vacuo, dissolved in EtOAc, washed with sat NaHCO3, brine, dried (Na2SO4) and concentrated in vacuo. Purification by silica gel column chromatography (eluent: EtOAc/Hexanes=1/1) afforded 9.1 g of 2-(2-benzyloxy-ethyl)-3-bromo-benzo[b]thiophene (87% yield).

reactant | 2-(3-bromo-benzo[b]thiophen-2-yl)-ethanol | 29.9 mmol, 7.7 g | BrC=1C2=C(SC1CCO)C=CC=C2 | C10H9BrOS
reactant | NaH | 59.8 mmol, 1.44 g | [H-].[Na+]
reactant | benzylbromide | 45 mmol, 5.3 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 2-(2-benzyloxy-ethyl)-3-bromo-benzo[b]thiophene | 9.1 g, 87% yield | C(C1=CC=CC=C1)OCCC1=C(C2=C(S1)C=CC=C2)Br | C17H15BrOS
